.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param vdd = 1.8 

.param vlow = 'vdd*0.2'
.param vhigh = 'vdd*0.8'
.param vmid = 'vdd*0.5'

vdd vdd 0 dc {vdd}
vin vin 0 pulse(0 {vdd} 0 20p 20p 1ns 2ns)

xnot1 vin vout vdd 0 not2
xnot2 vout nc vdd 0 not1

.include not2.cir

.tran 1ps 3ns 0 1ps

.meas tran trise trig v(vout) val={vlow} rise=1 targ v(vout) val={vhigh} rise=1
.meas tran tfall trig v(vout) val={vhigh} fall=1 targ v(vout) val={vlow} fall=1

.meas tran tplh trig v(vin) val={vmid} fall=1 targ v(vout) val={vmid} rise=1
.meas tran tphl trig v(vin) val={vmid} rise=1 targ v(vout) val={vmid} fall=1

.control
run

set color0 = white
set color1 = black
set color2 = red

plot vin vout

dc vin 0 1.8 0.01

plot v(vout) vs v(vin)

let vout = v(vout)
let vin = v(vin)

let slope = deriv(v(vout))

meas dc vm find vin when vout = vin
meas dc vil find vin when slope = -1 cross = 1
meas dc vih find vin when slope = -1 cross = 2

let nml = vil
print nml

let nmh = 1.8 - vih
print nmh

.endc
